US08871790B2
Compound 452. 4-(1-(5-(5-Isopropyl-7,7-dimethyl-4,5,6,7-tetrahydro-3H-imidazo[4,5-c]pyridin-2-yl)-2,4-dimethylbenzoyl)piperidin-4-yl)benzonitrile
4-(1-(5-(7,7-Dimethyl-4,5,6,7-tetrahydro-3H-imidazo[4,5-c]pyridin-2-yl)-2,4-dimethylbenzoyl)piperidin-4-yl)benzonitrile (0.12 g, 0.26 mmol) (intermediate prepared in the synthesis of compound 451), DMF (4 mL), acetic acid (69 μL, 1.21 mmol), sodium triacetoxyborohydide (0.11 g, 0.52 mmol) and acetone (0.50 mL, 6.8 mmol) were mixed and stirred at room temperature for 2 hours. The reaction was carefully quenched with water (10 mL) and the mixture was extracted with ethyl acetate (60 mL) and the organics was dried (Na2SO4), filtered and concentrated in vacuo. The crude product was purified by preparative TLC (DCM/10% MeOH) followed by a second preparative TLC (ethyl acetate/5% MeOH) to obtain the title compound as a white powder (4.1 mg, 8.1%). m/z (ES+) 510 (M+H)+.

reactant | 4-(1-(5-(7,7-Dimethyl-4,5,6,7-tetrahydro-3H-imidazo[4,5-c]pyridin-2-yl)-2,4-dimethylbenzoyl)piperidin-4-yl)benzonitrile | 0.26 mmol, 0.12 g | CC1(C2=C(CNC1)NC(=N2)C=2C(=CC(=C(C(=O)N1CCC(CC1)C1=CC=C(C#N)C=C1)C2)C)C)C | C29H33N5O
reactant | acetic acid | 1.21 mmol, 69 μL | C(C)(=O)O | C2H4O2
reactant | sodium | [Na] | Na
reactant | acetone | 6.8 mmol, 0.50 mL | CC(=O)C | C3H6O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 4-(1-(5-(5-Isopropyl-7,7-dimethyl-4,5,6,7-tetrahydro-3H-imidazo[4,5-c]pyridin-2-yl)-2,4-dimethylbenzoyl)piperidin-4-yl)benzonitrile | 4.1 mg, 8.1% | C(C)(C)N1CC2=C(C(C1)(C)C)N=C(N2)C=2C(=CC(=C(C(=O)N1CCC(CC1)C1=CC=C(C#N)C=C1)C2)C)C | C32H39N5O
